US08633212B2
6-Bromo-1′,3′-dihydrospiro[indene-2,2′-phenalen]-1(3H)-one (200 mg, 0.57 mmol) and 3-cyanophenylboronic acid (168 mg, 1.17 mmol) was dissolved in 1,4-dioxane (5 mL), Cs2CO3 (0.6 mL, 2 M) was added. Then Pd(PPh3)2Cl2 (10 mg) was added under N2. The mixture was heated at 100° C. for 10 minutes under microwave. The solvent was removed in vacuum. The crude product was purified by preparative TLC to give 3-(1-oxo-1,1′,3,3′-tetrahydrospiro[indene-2,2′-phenalene]-6-yl)benzonitrile (130 mg, 60%).

reactant | 6-Bromo-1′,3′-dihydrospiro[indene-2,2′-phenalen]-1(3H)-one | 0.57 mmol, 200 mg | BrC1=CC=C2CC3(CC=4C=CC=C5C=CC=C(C3)C45)C(C2=C1)=O | C21H15BrO
reactant | 3-cyanophenylboronic acid | 1.17 mmol, 168 mg | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | Cs2CO3 | 2 M, 0.6 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | 1,4-dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)2Cl2 | 10 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 3-(1-oxo-1,1′,3,3′-tetrahydrospiro[indene-2,2′-phenalene]-6-yl)benzonitrile | 130 mg, 60% | O=C1C2=CC(=CC=C2CC12CC=1C=CC=C3C=CC=C(C2)C13)C=1C=C(C#N)C=CC1 | C28H19NO
